US08802864B2
b) 2-(2-aminoethyl)-4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one
To a 50 mL round bottom flask containing 2-[2-(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl]-1H-isoindole-1,3(2H)-dione (130 mg, 0.216 mmol) and ethanol (4 mL) was added hydrazine monohydrate (82 mg, 2.55 mmol, 11 eq). The flask was equipped with a condenser and the reaction was stirred at 60° C. for 1 h. Analysis by LC/MS displayed the phthalimide deprotection was complete. The reaction was cooled to room temperature and concentrated in vacuo. The residue was purified by reverse phase HPLC (LUNA C-18: 30×50 mm column; 10-45% acetonitrile w/0.1% TFA/water w/0.1% TFA). The product fractions were neutralized with the addition of saturated aq sodium bicarbonate, combined, and extracted with dichloromethane. The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo to afford the title compound (65 mg, 63%). MS(ES)+ m/e 472.2 [M+H]+.

reactant | 2-[2-(4-[4-(1-benzofuran-5-yl)phenyl]-3-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-5-oxo-4,5-dihydro-1H-1,2,4-triazol-1-yl)ethyl]-1H-isoindole-1,3(2H)-dione | 0.216 mmol, 130 mg | O1C=CC2=C1C=CC(=C2)C2=CC=C(C=C2)N2C(=NN(C2=O)CCN2C(C1=CC=CC=C1C2=O)=O)C[C@H]2CN(CC2)C(=O)C2CC2 | C35H31N5O5
reactant | hydrazine monohydrate | 2.55 mmol, 82 mg, 11 eq | O.NN
reactant | phthalimide | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 2-(2-aminoethyl)-4-[4-(1-benzofuran-5-yl)phenyl]-5-{[(3S)-1-(cyclopropylcarbonyl)-3-pyrrolidinyl]methyl}-2,4-dihydro-3H-1,2,4-triazol-3-one | 65 mg, 63% | NCCN1N=C(N(C1=O)C1=CC=C(C=C1)C=1C=CC2=C(C=CO2)C1)C[C@H]1CN(CC1)C(=O)C1CC1 | C27H29N5O3
